US04013666
To a suspension of 24 parts of 3,4,5-trimethoxybenzeneacetic acid in 25 parts of benzene is added 7 parts of N,N-diethyl-1-propyne-1-amine, followed by a solution of 12 parts of 3,4-dihydro-6,7-dimethoxy-1-[(3,4,5-trimethoxyphenyl)methylene]isoquinoline [Ber. deut. chem. Ges., 55, 2989 (1922)] in 60 parts of pyridine. The resultant mixture is stirred at room temperatures for 18 hours, whereupon it is consecutively washed with aqueous 5% potassium carbonate, approximately 0.2% hydrochloric acid, and water, then dried over anhydrous sodium sulfate and stripped of solvent by vacuum distillation. The residue, crystallized from methanol, affords (Z)-1,2,3,4-tetrahydro-6,7-dimethoxy-2-(3,4,5-trimethoxybenzeneacetyl)-1-[(3,4,5-trimethoxyphenyl)methylene]isoquinoline melting at 148°-150°.

reactant | 3,4,5-trimethoxybenzeneacetic acid | COC=1C=C(C=C(C1OC)OC)CC(=O)O | C11H14O5
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | N,N-diethyl-1-propyne-1-amine | C(C)N(C#CC)CC | C7H13N
reactant | 3,4-dihydro-6,7-dimethoxy-1-[(3,4,5-trimethoxyphenyl)methylene]isoquinoline | COC=1C=C2CCNC(C2=CC1OC)=CC1=CC(=C(C(=C1)OC)OC)OC | C21H25NO5
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (Z)-1,2,3,4-tetrahydro-6,7-dimethoxy-2-(3,4,5-trimethoxybenzeneacetyl)-1-[(3,4,5-trimethoxyphenyl)methylene]isoquinoline | COC=1C=C2CCN(\C(\C2=CC1OC)=C/C1=CC(=C(C(=C1)OC)OC)OC)C(CC1=CC(=C(C(=C1)OC)OC)OC)=O | C32H37NO9
